US09260375B2
To a solution of dimethyl 2-[4-(hydroxymethyl)benzyl]-3-isopropylmaleate (96 mg, 0.31 mmol) in benzene (2.0 mL) was added active manganese dioxide (602 mg), and the mixture was vigorously stirred at room temperature for 3 h. After the reaction mixture was filtered, the filtrate was concentrated to dryness to give 79 mg of 2-(4-formylbenzyl)-3-isopropylmaleic acid dimethyl ester as colorless oil (yield: 83%).

reactant | dimethyl 2-[4-(hydroxymethyl)benzyl]-3-isopropylmaleate | 0.31 mmol, 96 mg | OCC1=CC=C(C/C(/C(=O)OC)=C(/C(=O)OC)\C(C)C)C=C1 | C17H22O5
solvent | benzene | 2.0 mL | C1=CC=CC=C1 | C6H6
catalyst | manganese dioxide | 602 mg | [O-2].[O-2].[Mn+4]
product | 2-(4-formylbenzyl)-3-isopropylmaleic acid dimethyl ester | 79 mg, yield: 83% | COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)C=O)=O | C17H20O5
